US08669234B2
3-[2-(4-Bromo-phenyl)-2-oxo-ethylcarbamoyl]-2-aza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester:
Following the procedure used to prepare compound 3-[2-(4-bromo-phenyl)-2-oxo-ethylcarbamoyl]-pyrrolidine-1-carboxylic acid tert-butyl ester, except that 2-aza-bicyclo[2.2.1]heptane-2,3-dicarboxylic acid 2-tert-butyl ester was used instead of pyrrolidine-1,3-dicarboxylic acid 1-tert-butyl ester.

reactant | 3-[2-(4-bromo-phenyl)-2-oxo-ethylcarbamoyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(CC1)C(NCC(=O)C1=CC=C(C=C1)Br)=O | C18H23BrN2O4
reactant | 2-aza-bicyclo[2.2.1]heptane-2,3-dicarboxylic acid 2-tert-butyl ester | C(C)(C)(C)OC(=O)N1C2CCC(C1C(=O)O)C2 | C12H19NO4
product | 3-[2-(4-Bromo-phenyl)-2-oxo-ethylcarbamoyl]-2-aza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C2CCC(C1C(NCC(=O)C1=CC=C(C=C1)Br)=O)C2 | C20H25BrN2O4
